US08039472B2
A solution of methyl 3-(chlorosulfonyl)-4-methoxybenzoate (2.0 g, 7.56 mmol) and diisopropylethylamine (1.94 ml, 11.34 mmol) in DCM (50 ml) is treated with N-methyl cyclohexylamine (0.70 ml, 9.07 mmol) at 0° C. The solution is stirred at room temperature for 3 hours and N-methyl cyclohexylamine (0.70 ml, 9.07 mmol) is added. The solution is partitioned between DCM (250 ml) and 0.5 N HCl (100 ml). The organic layer is washed with 0.5 N HCl (2×100 ml), sat. aq. NaHCO3 (2×100 ml) and water (100 ml), dried over MgSO4, and the solvent removed in vacuo to yield a yellow oil. Crystallisation (iPr2O/EtOAc) yields 3-(Cyclohexyl-methyl-sulfamoyl)-4-m ethoxy-benzoic acid methyl ester as yellow crystals; [M+H] 342.

reactant | methyl 3-(chlorosulfonyl)-4-methoxybenzoate | 7.56 mmol, 2.0 g | ClS(=O)(=O)C=1C=C(C(=O)OC)C=CC1OC | C9H9ClO5S
reactant | diisopropylethylamine | 11.34 mmol, 1.94 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methyl cyclohexylamine | 9.07 mmol, 0.70 ml | CNC1CCCCC1 | C7H15N
reactant | N-methyl cyclohexylamine | 9.07 mmol, 0.70 ml | CNC1CCCCC1 | C7H15N
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(Cyclohexyl-methyl-sulfamoyl)-4-m ethoxy-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OC)S(N(C)C1CCCCC1)(=O)=O)=O | C16H23NO5S
